US05981533
3-(4-Acetylamino-phenylamino)-4-cyano-5-(dimethylamino-methyleneamino)-pyrazole
A suspension of 5.3 g (20.7 mmol) of 3-(4-acetylamino-phenylamino)-5-amino-4-cyano-pyrazole in 4.4 ml (24.9 mmol) of N,N-dimethylformamide diethyl acetal (97%) and 100 ml of toluene is heated under reflux for 4 hours. The reaction mixture is then cooled to room temperature and filtered and the filter residue is washed with toluene, yielding the title compound having a water content of 4.22%; m.p. 275-276° C. (decomp.).

reactant | 3-(4-acetylamino-phenylamino)-5-amino-4-cyano-pyrazole | 20.7 mmol, 5.3 g | C(C)(=O)NC1=CC=C(C=C1)NC1=NNC(=C1C#N)N | C12H12N6O
reactant | N,N-dimethylformamide diethyl acetal | 24.9 mmol, 4.4 ml | C(C)OC(N(C)C)OCC | C7H17NO2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Acetylamino-phenylamino)-4-cyano-5-(dimethylamino-methyleneamino)-pyrazole | C(C)(=O)NC1=CC=C(C=C1)NC1=NNC(=C1C#N)N=CN(C)C | C15H17N7O
